US07465744B2
1-[2-(3-{[4-Methyl-5-(1H-pyrrol-2-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one hydrochloride
The title compound was prepared in analogy to method 1.5 from 4-methyl-5-(1H-pyrrol-2-yl)-4H-1,2,4-triazole-3-thiol (1.43 mmol, 0.26 g) and 1-[2-(3-chloropropyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one (1.43 mmol, 0.36 g; preparation in analogy to 1.4 from isoindoline as disclosed in WO 0125200). Yield: 0.11 g.

reactant | 4-methyl-5-(1H-pyrrol-2-yl)-4H-1,2,4-triazole-3-thiol | 1.43 mmol, 0.26 g | CN1C(=NN=C1C=1NC=CC1)S | C7H8N4S
reactant | 1-[2-(3-chloropropyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one | 1.43 mmol, 0.36 g | ClCCCN1CC2=CC=C(C=C2C1)C(CC)=O | C14H18ClNO
product | 1-[2-(3-{[4-Methyl-5-(1H-pyrrol-2-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one hydrochloride | Cl.CN1C(=NN=C1C=1NC=CC1)SCCCN1CC2=CC=C(C=C2C1)C(CC)=O | InChI=1S/C21H25N5OS.ClH/c1-3-19(27)15-7-8-16-13-26(14-17(16)12-15)10-5-11-28-21-24-23-20(25(21)2)18-6-4-9-22-18;/h4,6-9,12,22H,3,5,10-11,13-14H2,1-2H3;1H
